US04098812
4-Chloro-α-methoxy-5-nitro-o-toluamide
A sample of 4-chloro-α-methoxy-5-nitro-o-toluoyl chloride (1.5 g.) is added to 100 ml of ether saturated with ammonia. During the addition and for 15 minutes thereafter, the reaction temperature is kept below 20°. The precipitated solid is collected and washed well with water. The crude product (0.9) has an infrared compatible with the desired structure.

reactant | 4-chloro-α-methoxy-5-nitro-o-toluoyl chloride | 1.5 g | ClC=1C=C(C(=CC1[N+](=O)[O-])COC)C(=O)Cl | C9H7Cl2NO4
reactant | ammonia | N | H3N
solvent | ether | 100 ml | CCOCC | C4H10O
product | 4-Chloro-α-methoxy-5-nitro-o-toluamide | ClC=1C=C(C(=CC1[N+](=O)[O-])COC)C(=O)N | C9H9ClN2O4
